US08242116B2
5,5-Dimethyl-2-(morpholin-4-yl)-5,6-dihydro[1,3]thiazolo[4,5-d]pyrimidin-7(4H)-one
A mixture of 4-amino-2-(morpholin-4-yl)-1,3-thiazole-5-carboxamide (0.22 g, 0.98 mmol; prepared according to Liebigs Annalen der Chemie, 1986, 4, 780-4), 2,2-dimethoxypropane (3 mL, excess), acetone (2 mL, excess) and p-toluenesulfonic acid monohydrate (cat. amount) was heated to 100° C. in a sealed tube, under microwave irradiation, for 1 h. The reaction mixture was then concentrated in vacuo and purification by preparative HPLC gave the title compound (0.04 g, 16%) as an off-white solid. δH (DMSO-d6) 7.54 (1H, s), 7.01 (1H, s), 3.73-3.63 (4H, m), 3.49-3.38 (4H, m), 1.38 (6H, s). LCMS (ES+) 269.0 (M+H)+.

reactant | 4-amino-2-(morpholin-4-yl)-1,3-thiazole-5-carboxamide | 0.98 mmol, 0.22 g | NC=1N=C(SC1C(=O)N)N1CCOCC1 | C8H12N4O2S
reactant | 2,2-dimethoxypropane | 3 mL | COC(C)(C)OC | C5H12O2
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | acetone | 2 mL | CC(=O)C | C3H6O
product | 5,5-Dimethyl-2-(morpholin-4-yl)-5,6-dihydro[1,3]thiazolo[4,5-d]pyrimidin-7(4H)-one | 0.04 g, 16% | CC1(NC(C2=C(N1)N=C(S2)N2CCOCC2)=O)C | C11H16N4O2S
